US06008229
A mixture of 4-acetamido-3-methylbenzaldehyde (1.23 g), malonic acid (795 mg), pyridine (549 mg) and ethanol (1.7 ml) was refluxed for 3 hours under nitrogen atmosphere. To the mixture was added ethanol (1.7 ml), and the mixture was stirred for 30 minutes under ice-bath cooling. The resulting precipitate was collected by filtration and washed with ethanol to give 4-acetamido-3-methylcinnamic acid (1.08 g).

reactant | 4-acetamido-3-methylbenzaldehyde | 1.23 g | C(C)(=O)NC1=C(C=C(C=O)C=C1)C | C10H11NO2
reactant | malonic acid | 795 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 549 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
product | 4-acetamido-3-methylcinnamic acid | 1.08 g | C(C)(=O)NC1=C(C=C(C=CC(=O)O)C=C1)C | C12H13NO3
